US09079880B2
To a solution of 7-[3-(1-tert-butoxycarbonyl-pyrrolidin-2-yl)-benzoylamino]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester (900 mg, 1.62 mmol) in methylene chloride (50 mL) add 4M HCl in dioxane (8.1 mL, (32.4 mmol)) and stir the reaction at room temperature for 24 h. Remove the solvents in vacuo at 40° C., dissolve the residue in EtOAc, and concentrate again concentrate to dryness. Dry the residue in vacuo then triturate in EtOAc and hexane to afford 2.63 g of 7-(3-pyrrolidin-2-yl-benzoylamino)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester HCl as a solid.

reactant | 7-[3-(1-tert-butoxycarbonyl-pyrrolidin-2-yl)-benzoylamino]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | 1.62 mmol, 900 mg | C(C1=CC=CC=C1)OC(=O)N1CC2=CC(=CC=C2CC1)NC(C1=CC(=CC=C1)C1N(CCC1)C(=O)OC(C)(C)C)=O | C33H37N3O5
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 32.4 mmol, 8.1 mL | O1CCOCC1 | C4H8O2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 7-(3-pyrrolidin-2-yl-benzoylamino)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester HCl | 2.63 g | Cl.C(C1=CC=CC=C1)OC(=O)N1CC2=CC(=CC=C2CC1)NC(C1=CC(=CC=C1)C1NCCC1)=O | InChI=1S/C28H29N3O3.ClH/c32-27(23-9-4-8-22(16-23)26-10-5-14-29-26)30-25-12-11-21-13-15-31(18-24(21)17-25)28(33)34-19-20-6-2-1-3-7-20;/h1-4,6-9,11-12,16-17,26,29H,5,10,13-15,18-19H2,(H,30,32);1H
